US09193720B2
To a solution of 4,4-dimethylpiperidine (1.245 g, 11.00 mmol) and DIEA (3.49 ml, 20.00 mmol) in anhydrous CH3CN (40 mL) was added ethyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate (3.21 g, 10 mmol) at rt. The resulting mixture was placed in a pre-heated oil bath (80° C.). After 22 h, the reaction mixture was concentrated and the residue was purified by flash chromatography using 1-lit each 2.5, 5, 7.5 and 10% EtOAc/Hex to afford ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate (2.846 g, 7.16 mmol, 71.6% yield) as yellow solid. 1H NMR (500 MHz, CDCl3) δ 4.37 (q, J=7.1 Hz, 2H), 3.67-2.75 (br.s., 4H), 2.71 (s, 3H), 2.44 (s, 3H), 1.42 (t, J=7.1 Hz, 3H), 1.38 (t, J=5.6 Hz, 4H), 1.00 (s, 6H). LCMS (M+H)=399.4.

reactant | 4,4-dimethylpiperidine | 11.00 mmol, 1.245 g | CC1(CCNCC1)C | C7H15N
reactant | DIEA | 20.00 mmol, 3.49 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 10 mmol, 3.21 g | BrC=1C(=C(C(=NC1C)C)C(C(=O)OCC)=O)Cl | C11H11BrClNO3
solvent | CH3CN | 40 mL | CC#N | C2H3N
product | ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 7.16 mmol, 2.846 g, 71.6% yield | BrC=1C(=C(C(=NC1C)C)C(C(=O)OCC)=O)N1CCC(CC1)(C)C | C18H25BrN2O3
